US07560571B2
To a suspension of 0.1 g (0.942 mmol) of 10% palladium-on-charcoal in 35 cm3 of methanol is added, at a temperature in the region of 20° C., 1 g (4.061 mmol) of methyl 3-(4-nitrophenyl)-1H-pyrrole-2-carboxylate. After hydrogenating for 20 hours in an autoclave under 3 bar of hydrogen, at a temperature in the region of 35° C., the reaction mixture is filtered, the catalyst is rinsed with twice 5 cm3 of methanol and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa) to give 0.67 g of methyl 3-(4-aminophenyl)-1H-pyrrole-2-carboxylate in the form of an orange-coloured solid; M.W.=216, IE: m/z=216 M+, m/z=184 [M-CH3OH]+, m/z=155 [M−H2COOCH3]+.

reactant | methyl 3-(4-nitrophenyl)-1H-pyrrole-2-carboxylate | 4.061 mmol, 1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC=C1)C(=O)OC | C12H10N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 35 cm3 | CO | CH4O
catalyst | palladium-on-charcoal | 0.942 mmol, 0.1 g | [Pd] | Pd
product | methyl 3-(4-aminophenyl)-1H-pyrrole-2-carboxylate | 0.67 g | NC1=CC=C(C=C1)C1=C(NC=C1)C(=O)OC | C12H12N2O2
